US05455253
2-Trifluoromethyl-4-(3-cyanophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone.
A suspension of 3-carboxy-2-trifluoromethyl-2-hydroxy-4-(3-cyanophenyl)- 4,6,7,8-tetrahydro-5(1H)-quinolone (2.25 g) in toluene (100 ml) was treated with p-toluene sulfonic acid monohydrate (0.33 g). The mixture was vigorously refluxed under Dean-Stark conditions for 1.5 hours and then partitioned between water and ethyl acetate. The organic portion was washed (water and brine) and evaporated. The residue was purified by chromatography (hexane/ethyl acetate, 1:1) to yield the title compound (1.04 g) as a white solid; m.p. 182°-183° C.; NMR: 1.80-2.00(m,2, CH2), 2.13-2.30(m,2,CH2), 2.50-2.67(m,2,CH2), 4.68(d,1, CH, J=5.2), 5.61(d,1, CH, J=5.3), 7.51(m,2, Ar), 7.60(s, 1, Ar), 7.64(m,1, Ar), 9.42(s, 1, NH); MS: m/z=318(M); Analysis for C17H13F3N2O: Calculated C, 64.15; H, 4.12; N, 8.80; Found: C, 64.15; H, 4.10; N, 8.63.

reactant | 3-carboxy-2-trifluoromethyl-2-hydroxy-4-(3-cyanophenyl)- 4,6,7,8-tetrahydro-5(1H)-quinolone | 2.25 g | C(=O)(O)C1C(NC=2CCCC(C2C1C1=CC(=CC=C1)C#N)=O)(O)C(F)(F)F | C18H15F3N2O4
reactant | p-toluene sulfonic acid monohydrate | 0.33 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Trifluoromethyl-4-(3-cyanophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 1.04 g | FC(C=1NC=2CCCC(C2C(C1)C1=CC(=CC=C1)C#N)=O)(F)F | C17H13F3N2O
